datasets/10k__Tet_Int.csv
SMILES Labelled
"C[S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([O]C)[S]C.[Cl-]>>[Cl-].C[S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([O]C)[S]C 10=20;20,21=21"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])[H])C)CC)C1=CC=CC=C1>>C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)[H])C)CC)[O-:10])C1=CC=CC=C1 21=20;20,10=10"
"[H][O:10]C(C)C(C)C(CC)[S][C:20]([O]CC)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C)C(C)C(CC)[S]1)[C:20]1([O:21]C)[O]CC 10=20;20,21=21"
"[H][NH+:10](C([H])C(C)C(CC)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C([H])C(C)C(CC)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[O-:21][C:20]1(OCC)C(C)C(O)C([H])C(C)[O:10]1>>[O-:10]C(C)C([H])C(O)C(C)[C:20](OCC)=[O:21] 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[NH][CH](C)[CH]([H])C(CC)[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]CC)[NH][CH](C)C([H])[CH](CC)[O]1 10=20;20,21=21"
"CC1C(C(O[C:20](N1CC)([O-:10])[O:21][H])C)CC>>CC1C(C(O[C:20](=[O:10])N1CC)C)CC.[O-:21][H] 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C([H])[O]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](C7=CC=CC=C7)C(C)[CH]([H])[O]1 10=20;20,21=21"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C)[O][CH](C7=CC=CC=C7)C(C)[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"[H][O+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(CC)[S]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([O:21][H])[O][CH](C7=CC=CC=C7)C([H])[CH](CC)[S]1 10=20;20,21=21"
"[H][S:10]C(C9=CC=CC=C9)C(C)[S][C:20]([O][H])=[O+:21][Si](C)(C)(C).[Cl-]>>[Cl-].[H][S+:10](C(C9=CC=CC=C9)C(C)[S]1)[C:20]1([O:21][Si](C)(C)(C))[O][H] 10=20;20,21=21"
"[O-:21][C:20]1(OC)[O+:10]([Na])C([H])C(O)C1O>>[O:10]([Na])C([H])C(O)C([C:20](OC)=[O:21])O 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C(C)[O]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH](C7=CC=CC=C7)C([H])[CH](C)[O]1 10=20;20,21=21"
"[H][NH+:10](C(CC)C(C)C(CC)[O]1)[C:20]1([NH:21]CC)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C(CC)C(C)C(CC)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]CC 21=20;20,10=10"
"C[O+:10]([H])[C:20]1([NH:21]C)[O][CH]([H])C(C)[CH]([H])[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O][CH]([H])[CH](C)C([H])[O]2.C[O:10][H] 21=20;20,10=10"
"[H][NH+:10](C(C9=CC=CC=C9)C(C)C(C)[NH]1)[C:20]1([NH:21][H])[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C(C)C(C)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21][H] 21=20;20,10=10"
"C[S+:10]([H])[C:20]1([O:21][H])[S]C([H])C(C8=CC=CC=C8)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S]C([H])C(C8=CC=CC=C8)[S]2.C[S:10][H] 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](C)[CH](C)C(C)[O]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](C)C(C)[CH](C)[O]1 10=20;20,21=21"
"[H][NH:10]C(CC)C(C)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C(CC)C(C)[O]1)[C:20]1([NH:21][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"[H]C1C(C(O[C:20](N1CC)([O-:10])[O:21]C)C)CCCCCC>>[H]C1C(C(O[C:20](=[O:10])N1CC)C)CCCCCC.[O-:21]C 10=20;20,21=21"
"[H][NH:10]C([H])C(C)C(CC)[NH][C:20]([NH][H])=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C([H])C(C)C(CC)[NH]1)[C:20]1([NH:21][H])[NH][H] 10=20;20,21=21"
"[H][S:10]C([H])C(C8=CC=CC=C8)[S][C:20]([O]C7=CC=CC=C7)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C([H])C(C8=CC=CC=C8)[S]1)[C:20]1([O:21][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"CCN([C:20]1(OC(C(C([O:21]1)CCCCCC)[H])CCCCCC)[O-:10])CC>>CCN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)[H])CCCCCC)CC 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[O][CH](CC)[CH]([H])C([H])[NH]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]CC)[O][CH](CC)C([H])[CH]([H])[NH]1 10=20;20,21=21"
"C9=CC=CC=C9[NH:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([NH][H])[O]C7=CC=CC=C7.[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([NH][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"C[O+:21]=[C:20]2[O]C(C)C(C)[S]2.C9=CC=CC=C9[S:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21]C)[O]C(C)C(C)[S]1 10=20;20,21=21"
"[H][S+:10]([H])[C:20]1([O:21][H])[S]C(C)C(CC)[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S]C(C)C(CC)[O]2.[H][S:10][H] 21=20;20,10=10"
"[H]N([C:20](=[O:10])OC(C(C([O-:21])[H])[H])C)CC>>[H]N([C:20]1(OC(C(C([O:21]1)[H])[H])C)[O-:10])CC 21=20;20,10=10"
"C[O+:10]([H])[C:20]([NH:21]C)([NH]C8=CC=CC=C8)[O][H].[Cl-]>>[Cl-].C[O:10][H].C[NH+:21]=[C:20]([NH]C8=CC=CC=C8)[O][H] 21=20;20,10=10"
"C9=CC=CC=C9[O:10][H].[H][O+:21]=[C:20]([O][H])[S][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]([O:21][H])([O][H])[S][H] 10=20;20,21=21"
"[H][NH+:10](C(C)C(C)C([H])[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C.[Cl-]>>[Cl-].[H][NH:10]C(C)C(C)C([H])[O][C:20]([NH]C)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C(C8=CC=CC=C8)[S][C:20]([O]C7=CC=CC=C7)=[O+:21][Si](C)(C)(C).[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21][Si](C)(C)(C))[O]C7=CC=CC=C7 10=20;20,21=21"
"[H]C1C(C(O[C:20](N1[H])([O-:10])[O:21]C1=CC=CC=C1)CCCCCC)CC>>[H]C1C(C(O[C:20](=[O:10])N1[H])CCCCCC)CC.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
